US07547697B2
(1SR,8RS)-5-Cyclopropylmethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2(7),3,5-triene
light brow oil. MS (ESI): 201.1 (MH+). Prepared from bicyclo[2.2.1]heptane-2,3-dione, (3-cyclopropyl-2-oxo-propyl)-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | bicyclo[2.2.1]heptane-2,3-dione | C12C(C(C(CC1)C2)=O)=O | C7H8O2
reactant | (3-cyclopropyl-2-oxo-propyl)-phosphonic acid dimethyl ester | COP(OC)(=O)CC(CC1CC1)=O | C8H15O4P
reactant | hydrazine monohydrate | O.NN
product | (1SR,8RS)-5-Cyclopropylmethyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2(7),3,5-triene | C1(CC1)CC=1N=NC=2C3CCC(C2C1)C3 | C13H16N2
